US07511048B2
To a stirring solution of methanesulfonic acid 2-[6-(3-chloro-4-fluoro-phenylamino)-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluoren-2-yl]-ethyl ester (190 mg, 0.39 mmol) in DMF (3 mL) was added diisopropylethylamine (99 mg, 0.77 mmol) and 2-aminoethylmethylsulfone (143 mg, 1.16 mmol). It was heated to 80° C. for overnight. The crude mixture was diluted with methanol (5 mL) and it was separated by prep HPLC. The prep HPLC fractions were collected and solvent was removed by vacuum. The solid was re-dissolved by ethyl acetate (15 mL) and water (10 mL), sat. sodium carbonate solution (3 mL) was added. The organic layer was separated and dried over sodium sulfate. Evaporation of the solvents gave (3-chloro-4-fluoro-phenyl)-{2-[2-(2-methanesulfonyl-ethylamino)-ethyl]-2H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluoren-6-yl}-amine as a white solid (10.3 mg, 5.1%) 1H-NMR (DMSO-d6) δ 9.25 (bs, 1H), 8.80 (d, 1H), 8.60 (d, 1H), 8.40 (t, 1H), 7.90 (d, 1H), 7.80 (d, 1H), 7.60 (t, 1H), 7.40 (t, 1H), 4.60 (t, 2H), 3.20 (t, 2H), 2.90 (s, 3H), 2.10 (t, 2H), 2.05 (t, 2H); LCMS RT=2.89 min; [M+H]+=519.2.

reactant | methanesulfonic acid 2-[6-(3-chloro-4-fluoro-phenylamino)-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluoren-2-yl]-ethyl ester | 0.39 mmol, 190 mg | ClC=1C=C(C=CC1F)NC1=C2C=3C=CC=4C(C3SC2=NC=N1)=CN(N4)CCOS(=O)(=O)C | C20H15ClFN5O3S2
reactant | diisopropylethylamine | 0.77 mmol, 99 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-aminoethylmethylsulfone | 1.16 mmol, 143 mg | NCCS(=O)(=O)C | C3H9NO2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | methanol | 5 mL | CO | CH4O
product | (3-chloro-4-fluoro-phenyl)-{2-[2-(2-methanesulfonyl-ethylamino)-ethyl]-2H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluoren-6-yl}-amine | 10.3 mg, 5.1% | ClC=1C=C(C=CC1F)NC1=C2C=3C=CC=4C(C3SC2=NC=N1)=CN(N4)CCNCCS(=O)(=O)C | C22H20ClFN6O2S2
